US07514419B2
To a mixture of bis(4-methoxy-3-iso-propylphenyl)iodonium tetrafluoroborate (2.76 g, 5.39 mmol) and copper powder (0.46 g, 7.18 mmol) in CH2Cl2 (20.0 mL) at 0° C. was added a solution of TEA (0.55 mL, 3.95 mmol) and 3,5-dichloro-4-hydroxyphenylcarbamic acid tert-butyl ester (1.00 g, 3.59 mmol) in dichloromethane (10.0 mL). The reaction mixture was stirred at room temperature for 14 h and filtered through a Celite plug. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica gel, eluting with acetone-hexanes (1:19) to afford 3,5-dichloro-4-(3′-iso-propyl-4′-methoxyphenoxy)phenylcarbamic acid tert-butyl ester as an off-white solid (1.45 g, 95%): 1H NMR (300 MHz, DMSO-d6): δ 9.81 (s, 1H), 7.68 (m, 2H), 6.79 (m, 2H), 6.42 (m, 1H), 3.75 (s, 3H), 3.20 (m, 1H), 1.51 (s, 9H), 1.33 (d, J=6.0 Hz, 6H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=acetone-hexanes (3:7); Rf=0.64.

reactant | bis(4-methoxy-3-iso-propylphenyl)iodonium tetrafluoroborate | 5.39 mmol, 2.76 g | F[B-](F)(F)F.COC1=C(C=C(C=C1)[I+]C1=CC(=C(C=C1)OC)C(C)C)C(C)C
reactant | 3,5-dichloro-4-hydroxyphenylcarbamic acid tert-butyl ester | 3.59 mmol, 1.00 g | C(C)(C)(C)OC(NC1=CC(=C(C(=C1)Cl)O)Cl)=O | C11H13Cl2NO3
solvent | CH2Cl2 | 20.0 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 10.0 mL | ClCCl | CH2Cl2
catalyst | copper | 7.18 mmol, 0.46 g | [Cu] | Cu
product | 3,5-dichloro-4-(3′-iso-propyl-4′-methoxyphenoxy)phenylcarbamic acid tert-butyl ester | 1.45 g, 95% | C(C)(C)(C)OC(NC1=CC(=C(C(=C1)Cl)OC1=CC(=C(C=C1)OC)C(C)C)Cl)=O | C21H25Cl2NO4
